US06576748B1
A mixture of 1,6-hexanediol (118 grams, 1.0 mol; obtained i from Sigma-Aldrich), isatoic anhydride (367 grams, 2.25 mol), and 1,4-diazabicyclo[2.2.2]octane (22.4 grams, 0.20 mol) in 500 milliliters of dimethyl formamide in a 4 liter beaker was heated at 120° C. for 1.5 hours. The mixture was then cooled to room temperature and was stirred as first methanol (1,500 milliliters) and then water (750 milliliters) were added. The resultant suspension was stirred for 2 hours, and then was filtered. The solid was washed in the filter funnel with 2×200 milliliter portions of 75:25 methanol/water, then with 250 milliliters of water, and again with 2×200 milliliter portions of 75:25 methanol/water. Drying in the air for 72 hours gave the desired 1,6-hexanediyl dianthranilate product as a light beige solid (277.5 grams, 78 percent yield). A 1H-NMR spectrum indicated that the product was highly pure (greater than 98 percent). The melting point of this product as measured by Differential Scanning Calorimetry was 780° C.

reactant | 1,6-hexanediol | 1.0 mol, 118 grams | C(CCCCCO)O | C6H14O2
reactant | isatoic anhydride | 2.25 mol, 367 grams | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.20 mol, 22.4 grams | N12CCN(CC1)CC2 | C6H12N2
reactant | methanol | 1,500 milliliters | CO | CH4O
solvent | dimethyl formamide | 500 milliliters | CN(C=O)C | C3H7NO
solvent | water | 750 milliliters | O | H2O
product | 1,6-hexanediyl dianthranilate | 277.5 grams, 78 percent yield | C(C=1C(N)=CC=CC1)(=O)OCCCCCCOC(C=1C(N)=CC=CC1)=O | C20H24N2O4
